US04110472
18.1 g of 9-aminofluorene are reacted with epichlorohydrin, following the procedure described in Example 47, to give 1-(9-fluorenylamino)-2-hydroxy-3-chloropropane, from which, without purification, (9-fluorenylaminomethyl)oxirane is obtained with methanolic sodium hydroxide solution, by the procedure described in Example 48. Reaction of this compound with 17.8 g of 4-trans-propenylguaethol gives 16.1g = 38.7% of theory of 1-(2-ethoxy-5-trans-propenyl-phenoxy)-2-hydroxy-3-(9-fluorenylamino)-propane, which crystallizes out from the reaction solution in the cold in the form of the free base. Colorless crystals which have a melting point of 119°-121° and are identical to the product described in Example 28.

reactant | 9-aminofluorene | 18.1 g | NC1C2=CC=CC=C2C=2C=CC=CC12 | C13H11N
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
product | 1-(9-fluorenylamino)-2-hydroxy-3-chloropropane | C1=CC=CC=2C3=CC=CC=C3C(C12)NCC(CCl)O | C16H16ClNO
